US09278910B2
To a stirring suspension of 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)benzoic acid INT-37 (207 mg, 0.345 mmol) and 2-bromo-1-(4′-methyl-[1,1′-biphenyl]-4-yl)ethanone (100 mg, 0.345 mmol) in acetonitrile (4 mL) at 0° C. was added DIEA (70.0 μl, 0.379 mmol). The reaction mixture was allowed to slowly warm to room temperature and stirred for 16 h. The reaction mixture was poured onto citric acid (50 mL, 0.1 N aqueous solution) and extracted with EA (3×20 mL). The combined organic extracts were washed successively with NaHCO3 (20 mL), brine (20 mL) then dried over MgSO4 and concentrated. The crude product was purified by column chromatography (EA/isohexanes) to yield 254 mg (91%) of 2-(4′-methyl-[1,1′-biphenyl]-4-yl)-2-oxoethyl 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)benzoate INT-38 as a white foam. LCMS-ESI (m/z) calculated for C46H43F3N2O8: 808; found 831 [M+Na]+, tR=3.10 min (Method 10).

reactant | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)benzoic acid | C(C)(C)(C)OC(CN(C(C1=CC=C(C=C1)NC(CC1=C(C=C(C=C1)OC)C(F)(F)F)=O)=O)CC1=CC=C(C(=O)O)C=C1)=O | C31H31F3N2O7
reactant | 2-bromo-1-(4′-methyl-[1,1′-biphenyl]-4-yl)ethanone | 0.345 mmol, 100 mg | BrCC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C15H13BrO
reactant | DIEA | 0.379 mmol, 70.0 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 2-(4′-methyl-[1,1′-biphenyl]-4-yl)-2-oxoethyl 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)benzoate | 254 mg, 91% | C(C)(C)(C)OC(CN(C(C1=CC=C(C=C1)NC(CC1=C(C=C(C=C1)OC)C(F)(F)F)=O)=O)CC1=CC=C(C(=O)OCC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)C)C=C1)=O | C46H43F3N2O8
